data/oMe_Silver.jsonl
{"reaction_id": "NR-117_1-C1CCCCC1_2-C1CC1_3-C1CCCCC1_4-C1CCCCC1_5-C#CC","name": "Johnson-Claisen Rearrangement","level": "medium","reactants_smiles": ["C(=C(C1CCCCC1)C1CC1)(C1CCCCC1)C(C1CCCCC1)(C#CC)O","C(C)(OC)(OC)OC"],"products_smiles": ["C(C(=O)OC)C(C1CCCCC1)(C#CC)C(C1CCCCC1)=C(C1CCCCC1)C1CC1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(OC)(OC)[OH+]C","rationale": "Acid protonates the orthoester oxygen, increasing the electrophilicity of the adjacent carbon via inductive withdrawal and making it more susceptible to C–O bond cleavage."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](C)(OC)(OC)","rationale": "Heterolytic cleavage occurs because the protonated oxygen stabilizes the leaving group, generating a carbocation stabilized by adjacent alkoxy groups through resonance donation."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[OH+](C(C1CCCCC1)(C#CC)C(C1CCCCC1)=C(C1CCCCC1)C1CC1)C(C)(OC)OC","rationale": "The allylic alcohol oxygen attacks the carbocation, favored by the strong electrophilicity of the cation and the nucleophilicity of the alcohol under acidic conditions."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(C(C1CCCCC1)(C#CC)C(C1CCCCC1)=C(C1CCCCC1)C1CC1)C(C)([OH+]C)OC","rationale": "Proton transfer from the newly bound alcohol oxygen to an adjacent alkoxy group facilitates further activation and rearrangement by generating a better leaving group."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(OC)C)OC(C1CCCCC1)(C#CC)C(C1CCCCC1)=C(C1CCCCC1)C1CC1","rationale": "Another proton transfer generates the enol ether intermediate, driven by the stability of the conjugated alkene–ether system and relief of positive charge."},{"step": 6,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(C(=O)OC)C(C1CCCCC1)(C#CC)C(C1CCCCC1)=C(C1CCCCC1)C1CC1","rationale": "The [3,3]-sigmatropic rearrangement proceeds thermally due to favorable orbital overlap, forming a more stable carbonyl-containing product via conjugation and bond reorganization."}],"description": "Under acidic conditions, the Johnson–Claisen rearrangement proceeds via protonation and activation of the orthoester, generating an electrophilic species that reacts with the allylic alcohol. Subsequent proton transfers set up an enol ether intermediate, which undergoes a [3,3]-sigmatropic rearrangement to yield the γ,δ-unsaturated ester."}
